US04863958
To a suspension of potassium t-butoxide (448 mg; 4mmoles) in tetrahydrofuran (25 mL) was added methyl-triphenylphosphonium bromide (1.07 gm; 3 mmoles). The mixture was stirred for a period o 2 hours. 2-(4-chlorobenzoyl)-3-methyl-4-hydroxybenzofuran (286 mg; 1mmole) in tetrahydrofuran (5 ml) was added rapidly and the mixture was stirred for an additional 30 minutes at room temperature. The mixture was poured into 10% citric acid solution (100 ml) and was extracted with ethylacetate. The organic phase was dried (Na2SO4), and concentrate in vacuo. The residue was chromatographed on silica gel and eluted with 10% ethylacetate in hexane to yield 210 mg (73%) of 2-(1-(4-chlorophenyl)vinyl)-3-methylbenzofuran as an oil.

reactant | potassium t-butoxide | 4mmoles, 448 mg | CC(C)([O-])C.[K+]
reactant | 2-(4-chlorobenzoyl)-3-methyl-4-hydroxybenzofuran | 1mmole, 286 mg | ClC1=CC=C(C(=O)C=2OC3=C(C2C)C(=CC=C3)O)C=C1 | C16H11ClO3
reactant | citric acid | 100 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | methyl-triphenylphosphonium bromide | 3 mmoles, 1.07 gm | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(1-(4-chlorophenyl)vinyl)-3-methylbenzofuran | 210 mg, 73% | ClC1=CC=C(C=C1)C(=C)C=1OC2=C(C1C)C=CC=C2 | C17H13ClO
